US05942641
To a mixed solution of acetic acid (20 ml) and 47% hydrobromic acid (10 ml), 2,3,6,7-tetramethoxyfluorenone (8.0 g) was added and the mixture was refluxed for 15 hours. After cooling, the precipitated crystals were filtered, washed with water and then recrystallized from water-containing ethanol to give 5.0 g of 2,3,6,7-tetrahydroxyfluorenone as a claret powder.

reactant | hydrobromic acid | 10 ml | Br | BrH
reactant | 2,3,6,7-tetramethoxyfluorenone | 8.0 g | COC=1C(C2=CC3=CC(=C(C=C3C2=CC1OC)OC)OC)=O | C17H16O5
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2,3,6,7-tetrahydroxyfluorenone | 5.0 g | OC=1C(C2=CC3=CC(=C(C=C3C2=CC1O)O)O)=O | C13H8O5
